US06825208B2
To a mixture of 4-acetoxy-2-bromo-3-methoxybenzaldehyde (546 mg, 2 mmol; prepared in example 105, step a), 2-methoxy-phenol (280 mg, 2 mmol) and cesium carbonate (1.3 g, 4 mmol) in 16 mL of pyridine was added copper oxide(320 mg, 4 mmol)under argon. The mixture was purged with argon for 10 min, heated at 130° C. overnight and then quenched with 5% HCl solution. The mixture was extracted with ethyl acetate, washed with 1N NaOH solution and water before drying over sodium sulfate. After the removal of the solvent, the residue was chromatographed to give the product, 4-hydroxy-5-methoxy-2-(2-methoxy-phenoxy)-benzaldehyde.

reactant | 4-acetoxy-2-bromo-3-methoxybenzaldehyde | C(C)(=O)OC1=C(C(=C(C=O)C=C1)Br)OC | C10H9BrO4
reactant | 2-methoxy-phenol | 2 mmol, 280 mg | COC1=C(C=CC=C1)O | C7H8O2
reactant | cesium carbonate | 4 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | pyridine | 16 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper oxide | 4 mmol, 320 mg | [Cu]=O
product | 4-hydroxy-5-methoxy-2-(2-methoxy-phenoxy)-benzaldehyde | OC1=CC(=C(C=O)C=C1OC)OC1=C(C=CC=C1)OC | C15H14O5
